US07592477B2
A solution of 4-(3-carboxyphenyl)benzylamine hydrochloride (20 g, 0.075 mol) in 10% Na2CO3 (350 mL) and dioxane (100 mL) was cooled to 0° C. with stirring. A solution of Fmoc-OSu (30.7 g, 0.091 mol) in dioxane (100 mL) was added in one portion and the reaction mixture was stirred at RT for 3 h. Acidified with 1.5 N aqueous solution of HCl and extracted with EtOAc (3×400 mL). The organic layer was washed with water (3×500 mL), brine dried over Na2SO4 and concentrated, purification by column chromatography using dichloromethane/methanol (9:1) to give N-Fmoc-4-(3-carboxyphenyl)benzylamine (16 g). This was further purified by recrystallization from THF/PetEther gave the title pure product (8 g).

reactant | 4-(3-carboxyphenyl)benzylamine hydrochloride | 0.075 mol, 20 g | Cl.C(=O)(O)C=1C=C(C=CC1)C1=CC=C(CN)C=C1
reactant | Fmoc-OSu | 0.091 mol, 30.7 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)ON1C(=O)CCC1=O | C19H15NO5
solvent | Na2CO3 | 350 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | N-Fmoc-4-(3-carboxyphenyl)benzylamine | 16 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NCC1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)O | C29H23NO4
